US06476025B1
A50. (−)-cis-N-[2-(3,4-Dimethoxyphenyl)cyclohexyl]-4-propionylbenzamide
8.5 g of (+/−)-cis-1,2-dimethoxy-4-(2-nitrocyclohexyl)benzene are dissolved in 400 ml of methanol and treated at RT with 7 ml of hydrazine hydrate and 2.5 g of Raney nickel in portions in the course of 8 h. After stirring overnight at RT, the reaction mixture is filtered, the filtrate is concentrated and the residue is chromatographed on silica gel using a mixture of toluene/ethyl acetate/triethylamine=4/2/0.5. The title compound is obtained as an oil.

reactant | (+/−)-cis-1,2-dimethoxy-4-(2-nitrocyclohexyl)benzene | 8.5 g | COC1=C(C=C(C=C1)[C@H]1[C@H](CCCC1)[N+](=O)[O-])OC | C14H19NO4
reactant | hydrazine hydrate | 7 ml | O.NN
reactant | methanol | 400 ml | CO | CH4O
catalyst | Raney nickel | 2.5 g | [Ni] | Ni
product | (−)-cis-N-[2-(3,4-Dimethoxyphenyl)cyclohexyl]-4-propionylbenzamide | COC=1C=C(C=CC1OC)[C@@H]1[C@@H](CCCC1)NC(C1=CC=C(C=C1)C(CC)=O)=O | C24H29NO4
